US08017773B2
Step 1: [trans-4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyl]-carbamic acid tert-butyl ester
A mixture of 3 g (12 mmol) 4-tert-butoxycarbonylamino-trans-cyclohexane carboxylic acid (commercially available), 1.74 g (14 mmol) 1-(2-propyl)-piperazine (commercially available), 4.75 g (15 mmol) TBTU and 3.64 g (36 mmol) NEt3 in 10 ml DMF was stirred for 3 h at room temperature. After evaporation the residue was washed with 1N NaHCO3 solution, extracted with DCM and the combined organic layers dried with MgSO4 and evaporated to dryness to yield 4.56 g (94%) of the title compound. MS (m/e): 354.3 (MH+).

reactant | 4-tert-butoxycarbonylamino-trans-cyclohexane carboxylic acid | 12 mmol, 3 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
reactant | 1-(2-propyl)-piperazine | 14 mmol, 1.74 g | CC(C)N1CCNCC1 | C7H16N2
reactant | TBTU | 15 mmol, 4.75 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NEt3 | 36 mmol, 3.64 g | CCN(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | [trans-4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyl]-carbamic acid tert-butyl ester | 4.56 g, 94% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C)C)=O | C19H35N3O3
